US07452993B2
A mixture of 5-bromo-3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine (1.606 g, 3.537 mmol), 2-methoxy-phenyl-boronic acid (575 mg, 3.78 mmol) and of 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichlorrnethane adduct (145 mg, 0.178 mmol) in acetonitrile (8 mL) and aqueous solution of sodium carbonate (2M, 8 mL) was stirred in a closed vial at 85° C. for 100 min. The resulting mixture was then distributed between a saturated aqueous solution of sodium bicarbonate and dichloromethane and the aqueous phase extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate, filtered and concentrated. The crude product was purified by flash silica gel chromatography using a gradient of ethyl acetate in hexanes to afford 5-bromo-3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine (1.002 g, 65% yield) as an off-white oil. 1H-NMR (500 MHz, d6-DMSO) δ8.70 (d, 1H), 8.40 (d, 1H), 7.61 (d, 1H), 7.50 (ddd, 1H), 7.23 (dd, 1H), 7.10 (ddd, 1H), 5.81 (s, 2H), 3.85 (s, 3H), 3.66 (t, 2H), 0.84 (t, 2H), −0.10 (s, 9H).

reactant | 5-bromo-3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 3.537 mmol, 1.606 g | BrC=1C=C2C(=NC1)N(N=C2I)COCC[Si](C)(C)C | C12H17BrIN3OSi
reactant | 2-methoxy-phenyl-boronic acid | 3.78 mmol, 575 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | sodium carbonate | 2M, 8 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-bromo-3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 1.002 g, 65% yield | BrC=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C19H24BrN3O2Si
